US05288908
2) 2-(4-Carboxyphenyl)-2-phenylhexafluoropropane (IV)
298 g of 2-(4-methylphenyl)-2-phenylhexafluoropropane, 2.49 g of cobalt(II) acetate tetrahydrate, 2.45 g of manganese(IV) acetate tetrahydrate and 0.41 g of hydrogen bromide (corresponding to 4.1 g of a 10% strength HBr solution in glacial acetic acid) were initially introduced into a 1 l glass autoclave. The mixture was heated to about 180° C. under an oxygen pressure of 6.5 bar and under an exothermic reaction and was left at 170°-180° C. for 1 hour. The reaction solution was cooled to about 100° C. and 200 g of acetic acid were then distilled off. 275 g of water were slowly added to the solution remaining in the flask (about 600 g) at the boiling point. The carboxylic acid which had crystallized out was filtered off with suction, washed twice with 75 ml of 50% strength aqueous acetic acid each time and five times with 85 ml of water each time and dried at 60° C./60 mbar. Yield: 311 g (95.5% of theory) melting point: 153°-155° C., small colorless crystals.

reactant | 2-(4-methylphenyl)-2-phenylhexafluoropropane | 298 g | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C16H12F6
reactant | hydrogen bromide | 0.41 g | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | cobalt(II) acetate tetrahydrate | 2.49 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese(IV) acetate tetrahydrate | 2.45 g | O.O.O.O.C(C)(=O)[O-].[Mn+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
product | 2-(4-Carboxyphenyl)-2-phenylhexafluoropropane | C(=O)(O)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C16H10F6O2
